US04120723
Preparation of Ethyl α-(4-Hydroxy-3-tert-butylphenoxy)-tetradecanoate [Compound (5)]
116 g of tert-butylhydroquinone, 234 g of ethyl α-bromotetradecanoate and 170 g of potassium carbonate were mixed in 1.6 liters of acetone and reacted for 48 hours under refluxing and stirring. After the reaction, the acetone was distilled off and the residue was dissolved in one liter of ethyl acetate. The organic solvent layer was washed with water, dried with sodium sulfate and concentrated. The residue was recrystallized from 250 ml of n-hexane to obtain 110 g of a white solid. The melting point was 45° to 48° C.

reactant | tert-butylhydroquinone | 116 g | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
reactant | ethyl α-bromotetradecanoate | 234 g | BrC(C(=O)OCC)CCCCCCCCCCCC | C16H31BrO2
reactant | potassium carbonate | 170 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 1.6 liters | CC(=O)C | C3H6O
product | Ethyl α-(4-Hydroxy-3-tert-butylphenoxy)-tetradecanoate | 110 g | OC1=C(C=C(OC(C(=O)OCC)CCCCCCCCCCCC)C=C1)C(C)(C)C | C26H44O4
